US09403805B2
(2S,4S)-1-Cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid ethylamide was prepared from (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid and ethylamine in an analogous manner to example 1. MS calcd. for C25H34N3O3 [(M+H)+] 424.0, obsd. 424.0.

reactant | (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid | C1(CCCCC1)CN1[C@@H](C[C@@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)C(=O)O | C23H28N2O4
reactant | ethylamine | C(C)N | C2H7N
product | (2S,4S)-1-Cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid ethylamide | C(C)NC(=O)[C@H]1N(C[C@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)CC1CCCCC1 | C25H33N3O3
